Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
n/a
 
History of Present Illness:
Mr. ___ is an ___ man with history of HTN, hypothyroidism, 
RBBB who presented with diarrhea that developed while completing 
an outpatient course of clindamycin/amoxicillin for recent 
dental infection/root canal. 

Initial WBC 24, started PO vanco empirically while awaiting 
stool studies. 

He was a little confused about exact dates but states that 
sometime in late ___, he had the root canal and afterwards was 
prescribed clindamycin. he completed the clindamycin course 
("maybe 6 days or so") then still felt some pain in his tooth, 
told his doctor that he still thought there was some infection 
there, so was prescribed a second course of antibiotic, this 
time amoxicillin. 2 days prior to completing his amoxicillin 
course (several days prior to admission), he started developing 
diarrhea. He completed the amoxicillin course anyway but the 
diarrhea persisted. He also noted feeling generally unwell and 
notes ongoing nausea and poor PO intake during this time. Mild 
vague adominal pain but not worse in any specific quadrant. 

No prior history of cdiff. no sick contacts. no recent travel 
out of the country or state. After I noticed thrush in his 
mouth, he did note some pain with swallowing yesterday, which 
has resolved today however. 

Vitals on arrival to the ED were: temp 98.2, HR 85, BP 96/53, 
100% RA. He was found to have leukocytosis to 24.2 (82% polys, 
6% bands). He also had ___ with Cr 1.9, BUN 74, bicarb 18 (no 
gap), and K 5.5.

He was given IVF and admitted to medicine for suspected C diff. 

ROS:  
(+)cough (nonproductive "ever since I started the antibiotic"
(-)chest pain, shortness of breath, leg swelling
Remainder of comprehensive 10 point ROS it otherwise negative.
 
Past Medical History:
Recent dental infection
HTN
HLD
RBBB
Hypothyroidism
 
Social History:
___
Family History:
mother-had DM type 2
 
Physical Exam:
Vitals: 97.5 PO 136 / 72 73 18 96 RA 
Gen: ambulating around the room in no apparent distress
HEENT: AT, NC, PERRL, EOMI, MMM, hearing grossly intact
GI: soft, NT, ND, no HSM 
MSK: No edema
Skin: No rashes or ulcerations evident
Neuro: A+O x4, speech fluent, face symmetric, moving all
extremities, stable gait
Psych: calm mood, appropriate affect

 
 
Pertinent Results:
ADMISSION LABS: 
___ 12:32AM BLOOD WBC-24.4*# RBC-4.23* Hgb-12.4* Hct-37.1* 
MCV-88 MCH-29.3 MCHC-33.4 RDW-13.7 RDWSD-43.7 Plt ___
___ 12:32AM BLOOD Neuts-82* Bands-6* Lymphs-5* Monos-4* 
Eos-0 Baso-0 ___ Myelos-3* AbsNeut-21.47* 
AbsLymp-1.22 AbsMono-0.98* AbsEos-0.00* AbsBaso-0.00*
___ 12:32AM BLOOD Glucose-131* UreaN-74* Creat-1.9* Na-135 
K-5.5* Cl-102 HCO3-18* AnGap-21*
___ 12:32AM BLOOD ALT-43* AST-37 AlkPhos-137* TotBili-0.3
___ 12:32AM BLOOD Albumin-3.0*
___ 12:42AM BLOOD ___ Comment-GREEN TOP/
___ 12:42AM BLOOD Lactate-1.6 K-5.4*

=
================================================================
IMAGING: 
CXR ___:   
IMPRESSION:  
  
Streaky left retrocardiac airspace opacity likely represents 
atelectasis.  
However, superimposed infection cannot be fully excluded. 
  
AXR ___: 
IMPRESSION:  
  
Thumbprinting of the transverse colon compatible with known 
history C diff 
colitis.  No evidence of megacolon. 

=
================================================================
 **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ (___) @ 2200 ON 
___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.            (Reference 
Range-Negative). 

=
=
=
=
=
=
=
=
================================================================
Discharge Labs: 
___ 07:20AM BLOOD WBC-13.3* RBC-3.74* Hgb-10.8* Hct-32.3* 
MCV-86 MCH-28.9 MCHC-33.4 RDW-13.2 RDWSD-41.2 Plt ___
___ 07:20AM BLOOD Glucose-96 UreaN-12 Creat-0.9 Na-136 
K-3.8 Cl-104 HCO3-21* AnGap-15
___ 07:20AM BLOOD Calcium-7.6* Phos-2.8 Mg-1.6
 
Brief Hospital Course:
Summary: Mr. ___ is an ___ man with history of HTN, 
hypothyroidism, RBBB who presented with diarrhea that developed 
while completing an outpatient course of clindamycin/amoxicillin 
for recent dental infection/root canal. Initial WBC 24 (6% 
bands), started PO vanco empirically while awaiting stool 
studies, which later confirmed +cdiff. Overall clinically 
improved, renal failure and diarrhea resolved prior to 
discharge. 

#Sepsis (WBC 24 with evidence of end organ involvement (renal 
failure)) due to 
#Cdiff infection, severe
He was started PO vancomycin empirically given highly convincing 
history for cdiff, which was later confirmed on stool testing. 
Given rising WBC on hospital day 2, AXR and serum lactate were 
checked and were reassuringly normal. He was briefly hypotensive 
on ___ as well, which corrected with IV fluids. AXR done ___ 
showed thumbprinting consistent with cdiff colitis but no 
evidence of megacolon. He was initiated on vancomycin 125 mg po 
qid for a planned 14-day course to complete on ___. On the 
day of discharge, his diarrhea had resolved. 

#Acute renal failure: 
#HTN: 
Cr on admission 1.9 (from baseline 1.1) likely prerenal azotemia 
in setting of dehydration/diarrhea given highly elevated BUN. 
Resolved after IVF. In the setting of ___, his valsartan/HCTZ 
was held. His BP remained well controlled off this medication. 
He was instructed to hold off resuming the med until seen in his 
follow-up appointment with his PCP.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. valsartan-hydrochlorothiazide 160-12.5 mg oral DAILY 
2. Fluocinonide 0.05% Cream 1 Appl TP BID:PRN as necessary daily 

3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. Aspirin 81 mg PO DAILY 
6. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO Q6H 
you are to complete a total of 2 weeks of oral vancomycin. last 
day is ___ 
RX *vancomycin 125 mg 1 capsule(s) by mouth every 6 hours Disp 
#*48 Capsule Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Fluocinonide 0.05% Cream 1 Appl TP BID:PRN as necessary 
daily  
4.  Levothyroxine Sodium 50 mcg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Simvastatin 20 mg PO QPM  
7. HELD- valsartan-hydrochlorothiazide 160-12.5 mg oral DAILY  
This medication was held. Do not restart 
valsartan-hydrochlorothiazide until you see your primary care 
physician.
8.Outpatient Physical Therapy
diagnosis: M17.10
Evaluate and Treat

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-clostridium difficile colitis
-dehydration
-acute kidney injury
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 You were hospitalized at ___. 

 

Why were you in the hospital?
 =======================
-clostridium difficile colitis
-dehydration
-acute renal failure

 

 

What did we do for you?
 =======================
 -we gave you an antibiotic for your gastrointestinal infection, 
called oral vancomycin. You will need to complete a 2 week 
course (see medication list for details)
 -you were also given intravenous fluid to help your dehydration 
and your kidneys

 

 

What do you need to do?
 =======================
 - complete your vancomycin course
 - do NOT restart your blood pressure medication valsartan/HCTZ 
until you are seen by your primary care physician. Your blood 
pressure has remained well controlled off this medication during 
your hospital stay.

 

 

 Please follow up with your primary care doctor.

 

It was a pleasure taking care of you. We wish you the best!

Sincerely,
 Your ___ Medicine Team 
 
Followup Instructions:
___